US05905071
17e N-[2-(N-tert-Butyloxycarbonyl-L-alanyl-L-alanyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N octadecyl-oleamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-oleamide and N-tert-butyloxycarbonyl-L-alanyl-L-alanine. Yield 55%. [α]D =+10.3° (c=0.85, dichloromethane).

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-oleamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C44H85N3O6
reactant | N-tert-butyloxycarbonyl-L-alanyl-L-alanine | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C11H20N2O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(N-tert-Butyloxycarbonyl-L-alanyl-L-alanyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N octadecyl-oleamide | Yield 55% | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C55H103N5O10
